US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(3-methyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl)-3-trifluoromethylbenzamide
Prepared analogously to Example 1g from 4-(3-methyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl)-3-trifluoromethylbenzoic acid, TBTU, diisopropylethylamine, and (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 47%; Rf value: 0.30 (silica gel: dichloromethane/ethanol=9:1); C24H21ClF3N5O (487.911); mass spectrum: (M+H)+=488/490 (chlorine isotope) and (M−H)−=487/489 (chlorine isotope).

reactant | 4-(3-methyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl)-3-trifluoromethylbenzoic acid | CC1=NN(C2=C1CCC2)C2=C(C=C(C(=O)O)C=C2)C(F)(F)F | C15H13F3N2O2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(3-methyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl)-3-trifluoromethylbenzamide | Yield: 47% | ClC1=CC2=C(NC(=N2)[C@H](C)NC(C2=CC(=C(C=C2)N2N=C(C3=C2CCC3)C)C(F)(F)F)=O)C=C1 | C24H21ClF3N5O
